US05192785
Sulfamic acid 3-(2-methoxyphenoxy)propyl ester
A solution of 13.0 g (0.071 mole) of 3-(2-methoxyphenoxy)-1-propanol (prepared in 68% yield from guaiacol (43.2 g, 0.35 mole), 3-bromo-1-propanol (89.3 g, 0.61 mole) and potassium carbonate (112.0 g, 0.81 mole) in 1 l of acetone and 9.0 g (0.089 mole) of triethylamine in 50 ml of methylene chloride was added dropwise (20 min.) to a stirred, cooled (ice-acetone bath) solution of 22 ml (0.0786 mole) of sulfamoyl chloride (3.57M solution in acetonitrile, Preparation 19) in 30 ml methylene chloride at such a rate the temperature was maintained at ≤12° C. The reaction mixture was stirred at ambient temperature for 3 hr. The solvents were evaporated under reduced pressure and the viscous residue was triturated with 300 ml of ethyl acetate and the solids removed by filtration. The filtrate was washed with three 300 ml portions of water, dried (magnesium sulfate) and the solvent evaporated under reduced pressure to yield 11.7 g (63%) of a colorless, viscous oil that solidified upon standing. The solid was recrystallized from methylene chloride-petroleum ether (30°-60° C.) to give 6.9 g (37%) of the title compound as a white solid, mp 80°-83° C.

reactant | 3-(2-methoxyphenoxy)-1-propanol | 0.071 mole, 13.0 g | COC1=C(OCCCO)C=CC=C1 | C10H14O3
reactant | guaiacol | 0.35 mole, 43.2 g | C=1(C(O)=CC=CC1)OC | C7H8O2
reactant | 3-bromo-1-propanol | 0.61 mole, 89.3 g | BrCCCO | C3H7BrO
reactant | potassium carbonate | 0.81 mole, 112.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | triethylamine | 0.089 mole, 9.0 g | C(C)N(CC)CC | C6H15N
reactant | sulfamoyl chloride | 0.0786 mole, 3.57M, 22 ml | S(N)(=O)(=O)Cl | ClH2NO2S
solvent | acetone | 1 l | CC(=O)C | C3H6O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | Sulfamic acid 3-(2-methoxyphenoxy)propyl ester | 6.9 g, 37% | COC1=C(OCCCOS(N)(=O)=O)C=CC=C1 | C10H15NO5S
